US03994888
p-Methoxybenzyl 7-phthalimido-3-methyl-3-cephem-4-carboxylate.
To a suspension of 13.4 g. (38 mmol.) of 7-phthalimido-3-methyl-3-cephem-4-carboxylic acid in 20 ml. of dioxane and 10 ml. of water were slowly added 3.8 g. of KHCO3. The solution was evaporated to dryness, and 100 ml. of DMF and 8.8 g. of p-methoxybenzyl bromide were added to the potassium salt residue. The mixture was stirred for 2 hrs. and then poured onto 200 g. of ice. The resulting mixture was extracted twice with ethyl acetate. The extract was washed with water and brine, dried, and the solvent was then evaporated. The residue was recrystallized from ethyl acetate. Yield: 4.1 g. of large crystals, m.p. 118°-121°; second crop 1.8 g.; [α]D + 41.2° (MeCN), ir (CHCl3) 1800, 1785, 1745 and 1735 cm-1, nmr (CDCl3) δ 2.15 (s, 3, CH3); 3.0 and 3.7 (ABq, 2, J = 15 Hz), 3.8 (s, 3, CH3), 5.11 (d, 1, J = 4.5 Hz), 5.28 (s, 2, CH2), 5.75 (d, 1, J = 4.5 Hz), 6.8- 7.8 (m, 8).

reactant | 7-phthalimido-3-methyl-3-cephem-4-carboxylic acid | 38 mmol | C1(C=2C(C(N1C1[C@@H]3N(C(=C(CS3)C)C(=O)O)C1=O)=O)=CC=CC2)=O | C16H12N2O5S
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | p-Methoxybenzyl 7-phthalimido-3-methyl-3-cephem-4-carboxylate | C1(C=2C(C(N1C1[C@@H]3N(C(=C(CS3)C)C(=O)OCC3=CC=C(C=C3)OC)C1=O)=O)=CC=CC2)=O | C24H20N2O6S
